US07446127B2
Step A: Preparation of tert-butyl 7-(benzyloxy)-2H-chromene-3-carboxylate having following formular
To a stirred solution of 4-benzyloxy-2-hydroxy benzaldehyde (11.41 g, 50 mmol) in NMP (30 ml) was added K2CO3 (13.0 g, 100 mmol) and heated to 155° C. under N2 atmosphere. t-Butyl acrylate (36.5 ml, 250 mmol) was divided into 4 portions (10, 10, 10 & 6.5 ml). First 10 ml was added to the reaction mixture and heated at 155° C. The rest were added after 2 hr intervals and the reaction mixture was heated for total of 8 hrs. The reaction mixture was cooled to room temperature and water (150 ml) was added. The product was extracted with 150 ml of ether. The ether layer was washed with water twice and dried. Ether layer was diluted with 50% hexanes and passed through a pad of silica (3 inch length and 4 inch diameter). The silica was washed with 50% ether/hexane mixture and the solvent was evaporated to give the product as pale yellow solid (13 g, 77%).

reactant | 4-benzyloxy-2-hydroxy benzaldehyde | 50 mmol, 11.41 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | K2CO3 | 100 mmol, 13.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | t-Butyl acrylate | 250 mmol, 36.5 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | water | 150 ml | O | H2O
solvent | NMP | 30 ml | CN1CCCC1=O | C5H9NO
product | tert-butyl 7-(benzyloxy)-2H-chromene-3-carboxylate | 13 g, 77% | C(C1=CC=CC=C1)OC1=CC=C2C=C(COC2=C1)C(=O)OC(C)(C)C | C21H22O4
